US04910346
Preparation of 3-(3-propan-2-ylphenyl)butanal, la.
3-(3-Propen-2-ylphenyl)butanal, lb, (100 g) was hydrogenated over palladium on charcoal (5% wet, 1 gram) in 150 ml ethanol for 2.5 hours at 50 psi hydrogen using a Parr-shaker apparatus. The product mixture was decanted, filtered and the ethanol removed on a rotary evaporator to give 97 grams of a mixture which analyzed as 95.8% la, and 2% lb. The mixture was distilled to give 78.1 g pure la, b.p. 84° C./0.3 mm.Hg. Yield 78.0% la. IR and NMR spectra were compatible with the assigned structure. Odor: fresh, floral, melon having qualities found in lily-of-the-valley (muguet) and linden blossom. Odor value: 981,483; Odor threshold value: 0.07 ng/L. EXAMPLE III

reactant | 3-(3-Propen-2-ylphenyl)butanal | C=C(C)C=1C=C(C=CC1)C(CC=O)C | C13H16O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 1 gram | [Pd] | Pd
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 3-(3-propan-2-ylphenyl)butanal | 97 grams, Yield 78.0% | CC(C)C=1C=C(C=CC1)C(CC=O)C | C13H18O
